* C:\Users\smili\OneDrive\Documents\GitHub\Laboratorio_6_7_ITeDA\LTSpice\Agosto - Version nueva de las simulaciones\bode_circuito_completo_sin_capacitirores_en_preamp.asc
R1 N002 N003 500
R2 Out_FS N002 25k
V3 N005 0 5
V4 0 N007 5
XU1 0 N002 N005 N007 Out_FS level1 Avol=1Meg GBW=800Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 0 Out_FS 10k
C1 N003 Out_PreAmp 20p
C2 Out_FS N002 200f
R4 N001 Input_bode 1k
V1 N004 0 5
V5 0 N006 5
XU2 0 N001 N004 N006 Out_PreAmp level1 Avol=1Meg GBW=100Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R5 Out_PreAmp 0 10k
R6 Out_PreAmp N001 10k
V2 Input_bode 0 PWL file=C:\Users\smili\OneDrive\Documents\GitHub\Laboratorio_6_7_ITeDA\Scripts\combined_photon_data_10_times.txt AC 1
S1 Out 0 Out_FS 0 SW
V6 N008 0 1
R7 N008 Out 10k
.tran 0.0025
* .ac dec 1000 1 1e10
.model SW SW(Vt=91.5m, Vh=0, Ron=100Meg, Roff=0.001)
* Threshold 3PE = 107.7mV\nThreshold 2.5PE = 91.5mV
.lib UniversalOpAmp1.lib
.backanno
.end
